US04451476
5-[7-(4-Tertiary-butyloxycarbonylphenoxy)heptyl]-3-methylisoxazole
[I; R is CH3, n is 5, X is O, Ar is 4--(CH3)3 --COOCC6H4 ], m.p. 76° C., in 23% yield from 3,5-dimethylisoxazole and 6-(4-tertiary-butyloxycarbonylphenoxy)hexyl bromide; MIC vs. rhinovirus Type 2 in vitro=6.2 μg/ml.

reactant | 3,5-dimethylisoxazole | CC1=NOC(=C1)C | C5H7NO
reactant | 6-(4-tertiary-butyloxycarbonylphenoxy)hexyl bromide | C(C)(C)(C)OC(=O)C1=CC=C(OCCCCCCBr)C=C1 | C17H25BrO3
product | 5-[7-(4-Tertiary-butyloxycarbonylphenoxy)heptyl]-3-methylisoxazole | 23% yield | C(C)(C)(C)OC(=O)C1=CC=C(OCCCCCCCC2=CC(=NO2)C)C=C1 | C22H31NO4
